* Capless LDO feasibility — sg13cmos5l (3.3V hv devices). VIN 3.3 -> VOUT ~1.2V.
* PMOS pass device + 5T OTA error amp + resistive feedback (Vout = Vref*(1+R1/R2)).
* Small on-chip cap for stability (the "capless / small MOM" option).
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt

.param VINV=3.3
.param VREFV=0.6      ; Vout = Vref*(1+R1/R2) = 0.6*2 = 1.2V

Vin  vin  0 {VINV}
Vref vref 0 {VREFV}
* load: DC value used by op/dc-sweep; PULSE used by tran (1mA -> 20mA step at 20us)
Iload vout 0 PULSE(1m 20m 20u 50n 50n 20u 40u)

* --- OTA tail bias (~10 uA mirror) ---  [sg13 devices are SUBCKTS -> X prefix]
Iref  0 vbias DC 10u
XMref  vbias vbias 0 0 sg13_hv_nmos w=2u l=1u ng=1 m=1
XMtail ntail vbias 0 0 sg13_hv_nmos w=2u l=1u ng=1 m=1

* --- 5T OTA: NMOS pair (XM1 gate=vfb, XM2 gate=vref), PMOS mirror load ---
* negative feedback: vfb up -> XM1 up -> mirror up -> eout up -> pass PMOS off -> vout down
XM1 n3   vfb  ntail 0   sg13_hv_nmos w=10u l=1u ng=1 m=1
XM2 eout vref ntail 0   sg13_hv_nmos w=10u l=1u ng=1 m=1
XM3 n3   n3   vin   vin sg13_hv_pmos w=10u l=1u ng=1 m=1
XM4 eout n3   vin   vin sg13_hv_pmos w=10u l=1u ng=1 m=1

* --- PMOS pass device (large; W = 100u x m20 = 2000u) ---
XMpass vout eout vin vin sg13_hv_pmos w=100u l=0.5u ng=1 m=20

* --- feedback divider (Vout=1.2 from Vref=0.6) ---
R1 vout vfb 100k
R2 vfb  0   100k

* --- compensation: Miller around pass + small on-chip output cap ---
Cc   eout vout 2p
Cout vout 0    20p

.control
  op
  print v(vout) v(vfb) v(eout)
  echo "IQ_uA:" ; print -i(Vin)      ; * total current from VIN at DC load 1mA (Iq + load)
  echo "=== LINE REG (VIN 2.8..3.6 @ ~1mA) ==="
  dc Vin 2.8 3.6 0.02
  meas dc vo_vinlo FIND v(vout) AT=2.9
  meas dc vo_vinhi FIND v(vout) AT=3.58
  echo "=== LOAD REG (Iload 0..50mA @ VIN 3.3) ==="
  dc Iload 0 50m 2m
  meas dc vo_noload  FIND v(vout) AT=0
  meas dc vo_fullload FIND v(vout) AT=48m
  echo "=== LOAD TRANSIENT (1->20mA step) ==="
  tran 20n 80u
  meas tran vdroop MIN v(vout) FROM=19.9u TO=25u
  meas tran vsettle FIND v(vout) AT=39u
  wrdata /work/ldo_tran.csv v(vout)
.endc
.end
